US04734416
2.5 Grams of 8-bromo-5-(2-hydroxy-3-piperazinylpropoxy)-3,4-dihydrocarbostyril, 2.0 g of o-bromoanisole and 2.0 g of triethylamine are mixed with 30 ml of dimethylformamide. The reaction mixture thus obtained is heated under a stream of argon gas at 120° to 130° C. for 5 hours. The reaction mixture is concentrated under a reduced pressure and to the residue thus obtained is added 30 ml of 5% NaHCO3 aqueous solution, and the organic layer is extracted with chloroform. Chloroform is removed by distillation and to the residue thus obtained are added 3 ml of concentrated hydrochloric acid, then 20 ml of ethanol are added and stirred. The crystals thus precipitated are collected by filtration to obtain 2.1 g of 8-bromo-5-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril.dihydrochloride in the form of colorless crystals with a melting point of 226°-228° C.

reactant | 8-bromo-5-(2-hydroxy-3-piperazinylpropoxy)-3,4-dihydrocarbostyril | BrC=1C=CC(=C2CCC(NC12)=O)OCC(CN1CCNCC1)O | C16H22BrN3O3
reactant | o-bromoanisole | 2.0 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | 8-bromo-5-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril.dihydrochloride | 2.1 g | Cl.Cl.BrC=1C=CC(=C2CCC(NC12)=O)OCC(CN1CCN(CC1)C1=C(C=CC=C1)OC)O | InChI=1S/C23H28BrN3O4.2ClH/c1-30-21-5-3-2-4-19(21)27-12-10-26(11-13-27)14-16(28)15-31-20-8-7-18(24)23-17(20)6-9-22(29)25-23;;/h2-5,7-8,16,28H,6,9-15H2,1H3,(H,25,29);2*1H
